US06376712B2
The first step of the process of the present invention was conducted as follows. At first, 8.79 g (50.5 mmol) of 4-trifluoromethylbenzaldehyde and 3.83 g (55.1 mmol) of hydroxylamine hydrochloride were dissolved in 12.5 ml of ethanol and 34 ml of water followed by the addition of 2.5 g of sodium hydroxide and stirring for 1 hour at room temperature. After adding ether and washing with dilute hydrochloric acid, the reaction liquid was further washed with saturated brine followed by drying with mirabilite and concentrating to obtain 9.25 g (48.2 mmol) of 4-trifluoromethylbenzaldehyde oxime (yield: 95.5%).

reactant | 4-trifluoromethylbenzaldehyde | 50.5 mmol, 8.79 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | hydroxylamine hydrochloride | 55.1 mmol, 3.83 g | Cl.NO
reactant | water | 34 ml | O | H2O
reactant | sodium hydroxide | 2.5 g | [OH-].[Na+]
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 4-trifluoromethylbenzaldehyde oxime | 48.2 mmol, 9.25 g, yield: 95.5% | FC(C1=CC=C(C=NO)C=C1)(F)F | C8H6F3NO
